* C:\Users\Mahad\OneDrive\Documents\NUST\Semester_2\ENA_EE-211\project\Afrotechmods\draft1.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 NC_01 0 P001 0 N002 N001 P002 NC_02 LM386_TI ;§pnba COMP2)In-)In+)V-)OUT)COMP1)B)V+
V1 P003 0 AC 1.
C1 P002 0 100µ
V2 N001 0 9
R1 P001 P003 1k
C2 N001 0 100µ
R3 0 N003 8
C4 N003 N002 1m
C3 N002 P004 100n
R2 P004 0 1k
C5 N001 0 100n
.ac dec 10 20 20000k
* ceramic
* Speaker
.lib LM386.LIB
.backanno
.end
